US06268387B1
3-(5-Dimethylaminonaphthalene-1-sulfonylamino)-4-methoxy-N-phenyl-benzamide
Pyridine (5 mL) was added to a mixture of 3-amino-4-methoxy-N-phenyl-benzamide (0.73 g, 3.0 mmol) and dansyl chloride (0.81 g, 3.0 mmol) and stirred under an inert atmosphere at room temperature. After 20 hours, the mixture was diluted with water (50 mL) and extracted with ethyl acetate (2×50 mL). The combined extracts were washed with water then saturated brine, then dried over MgSO4 and stripped of solvent under reduced pressure to afford the product (1.3 g); m.p. 231-232° C.

reactant | Pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 3.0 mmol, 0.73 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | dansyl chloride | 3.0 mmol, 0.81 g | S(=O)(=O)(C1=CC=CC=2C(N(C)C)=CC=CC12)Cl | C12H12ClNO2S
solvent | water | 50 mL | O | H2O
product | 3-(5-Dimethylaminonaphthalene-1-sulfonylamino)-4-methoxy-N-phenyl-benzamide | 1.3 g | CN(C1=C2C=CC=C(C2=CC=C1)S(=O)(=O)NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC)C | C26H25N3O4S
